US04101546
3,5,6-Trichloro-2-(chloromethylthio)pyrazine
A mixture of 22.6 grams (0.1 mole of 3,5,6-trichloro-2-methylthiopyrazine and 20 grams (0.1 mole) of phosphorus pentachloride were heated at reflux (170° C) in an oil bath until the phosphorus pentachloride ceased to sublime. An additional 18 grams (0.095 mole) of phosphorus pentachloride were incrementally added until the reaction was complete (6 days). The reaction mixture was poured into ice water and extracted with chloroform. The extract was washed with a saturated sodium bicarbonate solution followed by washing with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The chloroform was removed by evaporation and the yellow-orange oil which remained was recrystallized from hexane. The 3,5,6-trichloro-2-(chloromethylthio)pyrazine product was recovered in a yield of 8.0 grams (~30 percent of theoretical) and melted at 68°-70° C. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 22.80, 0.88 and 10.83 percent, respectively, as compared with the theoretical contents of 22.72, 0.76 and 10.61 percent, respectively, calculated for the above-named compound.

reactant | 3,5,6-trichloro-2-methylthiopyrazine | 0.1 mole | ClC=1C(=NC(=C(N1)Cl)Cl)SC | C5H3Cl3N2S
reactant | phosphorus pentachloride | 0.1 mole, 20 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus pentachloride | 0.095 mole, 18 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 3,5,6-Trichloro-2-(chloromethylthio)pyrazine | ClC=1C(=NC(=C(N1)Cl)Cl)SCCl | C5H2Cl4N2S
